US07560558B2
Commercially available 3,4-dimethylanisole (409 mg) was dissolved in nitromethane (6 ml) to prepare a solution. Lithium perchlorate (1.9 g) and benzoyl chloride (843 mg) were added to the solution, scandium trifluoromethanesulfonate (148 mg) was then added thereto, and the mixture was stirred at room temperature for 3 days. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, was dried over sodium sulfate and was concentrated. The residue was subjected to separation and purification by column chromatography on silica gel using hexane/ethyl acetate as a solvent to give (4,5-dimethyl-2-methoxyphenyl)(phenyl)methanone (667 mg, yield 93%).

reactant | 3,4-dimethylanisole | 409 mg | CC=1C=C(C=CC1C)OC | C9H12O
reactant | Lithium perchlorate | 1.9 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | benzoyl chloride | 843 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | nitromethane | 6 ml | [N+](=O)([O-])C | CH3NO2
catalyst | scandium trifluoromethanesulfonate | 148 mg | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | (4,5-dimethyl-2-methoxyphenyl)(phenyl)methanone | 667 mg, yield 93% | CC1=CC(=C(C=C1C)C(=O)C1=CC=CC=C1)OC | C16H16O2
